US04544667
Step A: Preparation of 5-(2-hydroxyethyl)benzo[b]furan
The subject compound is prepared by a Grignard reaction with the reagant prepared from 5-bromobenzo[b]furan, methyl iodide and magnesium turnings and ethylene oxide.

reactant | 5-bromobenzo[b]furan | BrC1=CC2=C(OC=C2)C=C1 | C8H5BrO
reactant | methyl iodide | CI | CH3I
reactant | magnesium | [Mg] | Mg
reactant | ethylene oxide | C1CO1 | C2H4O
product | 5-(2-hydroxyethyl)benzo[b]furan | OCCC1=CC2=C(OC=C2)C=C1 | C10H10O2
